US07585885B2
(2R,4R)-2-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-4-(3-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
Add to a solution of (2R,4R)-2-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-4-(3-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (276 mg, 0.54 mmol) in methanol (9 mL) nickel (II) chloride followed by sodium borohydride (0.082 g, 2.17 mmol). Stir reaction for 15 min, add water (1 mL) and concentrate. Partition with ethyl acetate and water and filter through a filtering agent. Rinse cake with ethyl acetate. Separate layers, dry (magnesium sulfate) and concentrate to give the title compound as a white solid (0.244 g, 94%).

reactant | (2R,4R)-2-[(1R,2S)-3-(3,5-difluorophenyl)-1-hydroxy-2-nitropropyl]-4-(3-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.54 mmol, 276 mg | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OC1=CC(=CC=C1)OC)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)[N+](=O)[O-])O | C25H30F2N2O7
reactant | sodium borohydride | 2.17 mmol, 0.082 g | [BH4-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | methanol | 9 mL | CO | CH4O
product | (2R,4R)-2-[(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-4-(3-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.244 g, 94% | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OC1=CC(=CC=C1)OC)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O | C25H32F2N2O5
